US07612075B2
A. 4-methyl-2-nitrophenylethanone.
4-Fluro-3-nitrotoluene (7.5 g, 48.4 mmol) is treated with a solution of nitroethane (15.2 mL, 200 mmol) in ethyl acetate (100 mL) and DBU (21 mL, 145 mmol) and stirred overnight at ambient temperature. The solution is concentrated under vacuum, diluted with methanol, treated with 30% H2O2 (25 mL) and 10% sodium bicarbonate (25 ml) and stirred overnight at ambient temperature. The reaction mixture is concentrated in vacuo, acidified with 5% HCl and extracted with methylene chloride. The organic layer is dried (sodium sulfate) and chromatographed (35% ethyl acetate/hexane) to give the title compound (7.2 g, 40.2 mmol). MS m/z: M+=279; 1H NMR (CDCl3, 300 MHz) δ7.8 (s, 1H), 7.48 (d, 1H), 7.32 (d, 1H), 2.5 (s, 3H), 2.4 (s, 3H).

reactant | 4-Fluro-3-nitrotoluene | 48.4 mmol, 7.5 g | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | nitroethane | 200 mmol, 15.2 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | DBU | 145 mmol, 21 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-nitrophenylethanone | 40.2 mmol, 7.2 g | CC1=CC(=C(C=C1)C(C)=O)[N+](=O)[O-] | C9H9NO3
